US04690936
Synthesis of N-(3-methylpropanoyl)-L-Proline tert-butyl Ester
L-Proline tert-butyl ester (5.1 g.) is dissolved in dichloromethane (40 ml.) and the solution stirred and chilled in an ice bath. Dicyclohexylcarbodiimide (6.2 g.) dissolved in dichloromethane (15 ml.) is added followed immediately by a solution of 3-acetylthio-2-methylpropanoic acid (4.9 g.) in dichloromethane (5 ml.). After 15 minutes stirring in the ice bath and 16 hours at room temperature, the precipitate is filtered off and the filtrate is concentrated to dryness in vacuo. The residue is dissolved in ethyl acetate and washed neutral. The organic phase is dried over magnesium sulfate and concentrated to dryness in vacuo. The residue, N-(3-acetylthio-2-methylpropanoyl)-L-proline tert-butyl ester, is purified by column chromatography (silica gel, chloroform), yield 7.9 g. The named product is obtained by following the procedure of Example 17.

reactant | L-Proline tert-butyl ester | 5.1 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | Dicyclohexylcarbodiimide | 6.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-acetylthio-2-methylpropanoic acid | 4.9 g | C(C)(=O)SCC(C(=O)O)C | C6H10O3S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(3-methylpropanoyl)-L-Proline tert-butyl Ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(CCC)=O)=O | C13H23NO3
